US07812017B2
4-Bromo-7-methoxy indole (2 g, 8.8 mmol) was dissolved in CH2Cl2 (300 mL). PhSO2Cl (2.4 g, 9.4 mmol was added, followed by tetrabutylammonium hydrogen sulfate (0.34 g, 0.88 mmol) and 4M aqueous NaOH (17 mL), in that order. The reaction mixture was stirred at ambient temperature for 3 hrs. The layers were separated and the aqueous layer was extracted with CH2Cl2, washed with H2O, dried over Na2SO4, filtered and concentrated. The crude material was recrystallised from ethanol to give 4-bromo-7-methoxy-1-(phenylsulfonyl)-1H-indole, 0.9 g.

reactant | 4-Bromo-7-methoxy indole | 8.8 mmol, 2 g | BrC1=C2C=CNC2=C(C=C1)OC | C9H8BrNO
reactant | PhSO2Cl | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | NaOH | 4M, 17 mL | [OH-].[Na+]
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium hydrogen sulfate | 0.88 mmol, 0.34 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-bromo-7-methoxy-1-(phenylsulfonyl)-1H-indole | BrC1=C2C=CN(C2=C(C=C1)OC)S(=O)(=O)C1=CC=CC=C1 | C15H12BrNO3S
